US07964732B2
Step A6A: 1-(5-Methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl)ethanone
To a solution of 3-(ethoxymethylene)pentane-2,4-dione (Perkin 1. 2000, 1455-1460, 1.95 g, 12.5 mmol) in MeOH (33 ml) was added a solution of 2,2,2-trifluoroethylhydrazine (1.54 g, 13.5 mmol) and conc.HCl (2.6 ml) in MeOH (10 ml) (pre-cooled at 0° C.) dropwise at −15° C. The resulting mixture was then stirred for 24 h at rt. After removal of the solvent at rt, the residue was basified with 2N NaOH aq, and the aqueous layer was extracted several times with EtOAc. The combined organic extracts were dried over Na2SO4, and concentrated in vacuo to give the crude product as a single regioisomer (1.41 g, 51% yield). 1H NMR (300 MHz, CDCl3) δ 2.46 (3H, s), 2.62 (3H, s), 4.66 (1H, d, J=6.0 Hz), 4.72 (1H, d, J=9.0 Hz), 7.92 (1H, s). MS (ESI) m/z 207 (M+H)+

reactant | 3-(ethoxymethylene)pentane-2,4-dione | 12.5 mmol, 1.95 g | C(C)OC=C(C(C)=O)C(C)=O | C8H12O3
reactant | 2,2,2-trifluoroethylhydrazine | 13.5 mmol, 1.54 g | FC(CNN)(F)F | C2H5F3N2
reactant | HCl | 2.6 ml | Cl | ClH
solvent | MeOH | 33 ml | CO | CH4O
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(5-Methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl)ethanone | 51% yield | CC1=C(C=NN1CC(F)(F)F)C(C)=O | C8H9F3N2O
